US04525330
Isooctadecyl nicotinate was prepared using the method of Example 7 from nicotinic acid and a commercial product, isooctadecyl alcohol, obtained from Farbwerke Hoechst AG. The product had an estimated purity 94.5%.

reactant | nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | isooctadecyl alcohol | C(CCCCCCCCCCCCCCC(C)C)O | C18H38O
product | Isooctadecyl nicotinate | C(C1=CN=CC=C1)(=O)OCCCCCCCCCCCCCCCC(C)C | C24H41NO2
